US07517996B2
Synthesis of 1-(2-chlorophenyl)ethyl 3-(4-hydroxyphenyl)-4-isoxazolylcarbamate (Compound 23)
To a solution (20 ml) of 4-[4-({[1-(2-chlorophenyl)ethoxy]carbonyl}amino)-3-isoxazolyl]phenyl acetate (2.11 g, 5.26 mmol) in tetrahydrofuran was added 1M aqueous sodium hydroxide solution (7.0 ml), and the mixture was stirred at room temperature for 7 hours. The reaction mixture was concentrated under reduced pressure, and water was added. The mixture was neutralized with 1M hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (1.82 g, 96%).

reactant | 4-[4-({[1-(2-chlorophenyl)ethoxy]carbonyl}amino)-3-isoxazolyl]phenyl acetate | 5.26 mmol, 20 ml, 2.11 g | C(C)(=O)OC1=CC=C(C=C1)C1=NOC=C1NC(=O)OC(C)C1=C(C=CC=C1)Cl | C20H17ClN2O5
reactant | sodium hydroxide | 1M, 7.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2-chlorophenyl)ethyl 3-(4-hydroxyphenyl)-4-isoxazolylcarbamate | 1.82 g, 96% | OC1=CC=C(C=C1)C1=NOC=C1NC(OC(C)C1=C(C=CC=C1)Cl)=O | C18H15ClN2O4
